US04061635
1-Phenyl-2-chloro-cyclohex-3-ene-carboxylic-acid-ethyl-ester:
200 g of 1-phenyl-2-acetoxy-cyclohex-3-ene-1-carboxylic acid-ethyl-ester are dissolved in 1 liter of 96% ethanol. The solution is charged with 190 g of HCl gas and heated under reflux for 2 hrs. The solvent is removed and the residue directly fractionated in the vacuum. b.p.°,1 130° C. Yield: 169 g.

reactant | 1-phenyl-2-acetoxy-cyclohex-3-ene-1-carboxylic acid-ethyl-ester | 200 g | C(C)OC(=O)C1(C(C=CCC1)OC(C)=O)C1=CC=CC=C1 | C17H20O4
reactant | HCl | 190 g | Cl | ClH
solvent | ethanol | 1 liter | C(C)O | C2H6O
product | 1-Phenyl-2-chloro-cyclohex-3-ene-carboxylic-acid-ethyl-ester | C(C)OC(=O)C1(C(C=CCC1)Cl)C1=CC=CC=C1 | C15H17ClO2
